US04518613
(1) Preparation of crotonoyl carnitine.
8 cc (0.08 moles) of crotonyl chloride were added to a solution of carnitine hydrochloride (8 grams; 0.04 moles) in trifluoroacetic acid. The reaction mixture was kept under stirring at 50° C. overnight. Subsequently, ethyl ether was added to the mixture and a precipitate formed. The precipitate was filtered off and used as such in the subsequent reaction.

reactant | crotonyl chloride | 0.08 moles, 8 cc | C(\C=C\C)(=O)Cl | C4H5ClO
reactant | carnitine hydrochloride | 0.04 moles, 8 grams | Cl.OC(C[N+](C)(C)C)CC([O-])=O
reactant | ethyl ether | C(C)OCC | C4H10O
solvent | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
product | crotonoyl carnitine | C(\C=C\C)(=O)C(O)(C[N+](C)(C)C)CC([O-])=O | C11H19NO4
